US04725600
To a suspension of 2-chloro-3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-4-(2,4,6-trimethylphenylimino)pyrimidine (1.0 g) in a mixture of methanol (9 ml) and water (1.5 ml) was added sodium azide (0.163 g). The mixture was stirred at 50° to 55° C. for an hour. After removal of the solvent, the residue was washed with water and collected by filtration to give 4,5-dihydro-7-(3,4-dimethoxyphenyl)-4-methyl-5-(2,4,6-trimethylphenylimino)tetrazolo[1,5-a]pyrimidine (0.80 g).

reactant | 2-chloro-3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-4-(2,4,6-trimethylphenylimino)pyrimidine | 1.0 g | ClC1=NC(=CC(N1C)=NC1=C(C=C(C=C1C)C)C)C1=CC(=C(C=C1)OC)OC | C22H24ClN3O2
reactant | sodium azide | 0.163 g | [N-]=[N+]=[N-].[Na+]
solvent | methanol | 9 ml | CO | CH4O
solvent | water | 1.5 ml | O | H2O
product | 4,5-dihydro-7-(3,4-dimethoxyphenyl)-4-methyl-5-(2,4,6-trimethylphenylimino)tetrazolo[1,5-a]pyrimidine | 0.80 g | COC=1C=C(C=CC1OC)C1=CC(N(C=2N1N=NN2)C)=NC2=C(C=C(C=C2C)C)C | C22H24N6O2
